US04853404
0.95 g of sodium cyanide is added to a solution of 1.0 g of (2,3-dichloro-4-methoxyphenyl)(1-benzyl-5-pyrazolyl)methanone in dimethylsulfoxide and the mixture is heated at 100° C. for 4 hours under argon gas atmosphere. After cooling, cold water is added to the reaction mixture. The mixture is adjusted to pH 5-6 with acetic acid and then extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography to give 0.39 g of 2,3-dichloro-4-(1-benzyl-5-pyrazolylcarbonyl)phenol.

reactant | sodium cyanide | 0.95 g | [C-]#N.[Na+]
reactant | (2,3-dichloro-4-methoxyphenyl)(1-benzyl-5-pyrazolyl)methanone | 1.0 g | ClC1=C(C=CC(=C1Cl)OC)C(=O)C1=CC=NN1CC1=CC=CC=C1 | C18H14Cl2N2O2
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2,3-dichloro-4-(1-benzyl-5-pyrazolylcarbonyl)phenol | 0.39 g | ClC1=C(C=CC(=C1Cl)C(=O)C1=CC=NN1CC1=CC=CC=C1)O | C17H12Cl2N2O2
